US05037853
A heterogeneous mixture of 3-hydroxybenzaldehyde (9.16 g, 75 mmol), 4-bromofluorobenzene (27.30 g, 156 mmol), K2CO3 (16.07 g, 116.3 mmol) and copper powder (2.38 g, 37.5 mmol) in pyridine (75 mL) was refluxed for 40 hrs. It was then cooled to room temperature and filtered through Celite. The filtrate was diluted with ethylacetate (500 mL) and washed with water (3×300 mL). The organic was then dried with MgSO4 and concentrated. The resulting residue was chromatographed (silica gel, hexane:ether, 85:15) to afford 11.83 g (73%) of 3-(4-fluorophenoxy)benzaldehyde as a yellow oil.

reactant | 3-hydroxybenzaldehyde | 75 mmol, 9.16 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | 4-bromofluorobenzene | 156 mmol, 27.30 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | K2CO3 | 116.3 mmol, 16.07 g | C(=O)([O-])[O-].[K+].[K+]
solvent | pyridine | 75 mL | N1=CC=CC=C1 | C5H5N
catalyst | copper | 37.5 mmol, 2.38 g | [Cu] | Cu
product | 3-(4-fluorophenoxy)benzaldehyde | 11.83 g, 73% | FC1=CC=C(OC=2C=C(C=O)C=CC2)C=C1 | C13H9FO2
